### PR TITLE
feat: `ω`-map on `NatOrdinal`

### PR DESCRIPTION
**Pull request by vihdzp**
We define base `ω` exponentiation on `NatOrdinal` and prove various results about it. In particular, we show that the `ω`-map on `Surreal` coincides with that of `NatOrdinal`.

### CODE REVIEW

File: CombinatorialGames/NatOrdinal/Basic.lean [hunk 1]
```diff
@@ -144,6 +139,13 @@ instance : IsOrderedCancelAddMonoid NatOrdinal where
 theorem le_add_left : a ≤ b + a := by simp
 theorem le_add_right : a ≤ a + b := by simp
 
+@[simp]
+theorem add_eq_zero_iff : a + b = 0 ↔ a = 0 ∧ b = 0 := by
+  refine ⟨fun h ↦ ?_, ?_⟩
+  · simp_rw [← NatOrdinal.le_zero]
```
Comment (tristan-f-r) [inline CombinatorialGames/NatOrdinal/Basic.lean]: (`simp_rw` usually implies some rewrite under binders)

```suggestion
  · repeat rw [← NatOrdinal.le_zero]
```

File: CombinatorialGames/Surreal/Pow.lean [hunk 2]
```diff
@@ -354,6 +348,33 @@ theorem wpow_sub_equiv (x y : IGame) [Numeric x] [Numeric y] : ω^ (x - y) ≈ 
...
 end Numeric
+
+open NatOrdinal in
+theorem toIGame_wpow_equiv (x : NatOrdinal) : (ω^ x).toIGame ≈ ω^ x.toIGame := by
+  have H {y} (h : y < x) (n : ℕ) : toIGame (ω^ y * n) ≈ ω^ y.toIGame * n :=
+    (toIGame_mul ..).trans <| Numeric.mul_congr (toIGame_wpow_equiv y) (toIGame_natCast_equiv n)
+  obtain rfl | hx := eq_or_ne x 0; simp
+  constructor <;> refine le_iff_forall_lf.2 ⟨?_, ?_⟩
+  · simp_rw [forall_leftMoves_toIGame, lt_wpow_iff hx]
+    rintro z ⟨y, hy, n, hz⟩
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Pow.lean]:
```suggestion
    intro z ⟨y, hy, n, hz⟩
```
